US08735387B2
(d) 5-Methylsulfanyl-2-(3-methyl-phenyl)-oxazolo[5,4-d]pyrimidin-7-ol
21 g of N-(4,6-dihydroxy-2-methylsulfanyl-pyrimidin-5-yl)-3-methyl-benzamide in 100 ml of phosphorus oxychloride were heated to 70° C. for 3 h. After cooling, the mixture was poured into 500 ml of diethyl ether. The precipitate was filtered off and washed with diethyl ether. 7.6 g of the title compound were obtained.

reactant | N-(4,6-dihydroxy-2-methylsulfanyl-pyrimidin-5-yl)-3-methyl-benzamide | 21 g | OC1=NC(=NC(=C1NC(C1=CC(=CC=C1)C)=O)O)SC | C13H13N3O3S
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Methylsulfanyl-2-(3-methyl-phenyl)-oxazolo[5,4-d]pyrimidin-7-ol | 7.6 g | CSC=1N=C(C2=C(N1)OC(=N2)C2=CC(=CC=C2)C)O | C13H11N3O2S
